US08030354B2
A titanium tetrachloride solution (36.0 mL, 36.0 mmol) (1M solution in DCM) was added slowly to a cooled (0° C.) round bottom flask containing dry THF (75 mL). To the resulting yellow slurry was slowly added the 2,2-dimethyl-1,3-dioxane-4,6-dione (2.50 g, 17.0 mmol) (commercially available from Aldrich) and cyclohexanone (1.80 mL, 17.0 mmol) (commercially available from Aldrich) dissolved in THF (25 mL). Pyridine (7.0 mL, 87.0 mmol) was then added and the resulting mixture was allowed to warm to room temperature and stirred overnight. The reaction was then quenched with water (200 mL) and the mixture was extracted with ether (2×300 mL). The combined organic layers were washed with saturated sodium bicarbonate solution (2×150 mL) and brine (1×100 mL) and dried over magnesium sulfate. The filtrate was concentrated, and the residue was recrystallized using ether and hexanes to give 5-cyclohexylidene-2,2-dimethyl-1,3-dioxane-4,6-dione (1.86 g, 48% yield). MS ESI (neg.) m/e: 223.1 (M−H)−.

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 17.0 mmol, 2.50 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | cyclohexanone | 17.0 mmol, 1.80 mL | C1(CCCCC1)=O | C6H10O
reactant | Pyridine | 87.0 mmol, 7.0 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | titanium tetrachloride | 36.0 mmol, 1M, 36.0 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 5-cyclohexylidene-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.86 g, 48% yield | C1(CCCCC1)=C1C(OC(OC1=O)(C)C)=O | C12H16O4
